US04939140
naphthothiazole;
naphthoxazole; or thienoisothiazole;

reactant | naphthoxazole | N1=COC2=C1C1=CC=CC=C1C=C2 | C11H7NO
reactant | thienoisothiazole | S1N=CC2=C1C=CS2 | C5H3NS2
product | naphthothiazole | N1=CSC2=C1C1=CC=CC=C1C=C2 | C11H7NS
